US05681805
A solution of 5.00 g (31.6 mmol) of nonanoic acid, 3.93 g (34.76 mmol) of chloroacetyl chloride (CAC), 2.7 g (31.6 mmol) of phenol, and 35 ml of acetonitrile was delivered to a clean, dry, two neck 100 ml round bottom flash fitted with a mechanical stirrer and a reflux condenser. The reaction flask was flushed with nitrogen through a gas inlet at the top of the reflux condenser and placed in an 80° C. oil bath and stirred for 19 hours. The reaction mixtures was allowed to cool to room temperature and then vacuum filtered through 30 g of neutral alumina to remove chloroacetic acid. The purified product was then placed on a high vacuum line overnight to remove any residual solvent. Phenyl nonanoate (NOB) was isolated as a faint yellow liquid (6.18 g, 26.37 mmol) in 83% yield. The purity of NOB was determined to be over 97%.

reactant | nonanoic acid | 31.6 mmol, 5.00 g | C(CCCCCCCC)(=O)O | C9H18O2
reactant | chloroacetyl chloride | 34.76 mmol, 3.93 g | ClCC(=O)Cl | C2H2Cl2O
reactant | phenol | 31.6 mmol, 2.7 g | C1(=CC=CC=C1)O | C6H6O
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | Phenyl nonanoate | 83% yield | C(CCCCCCCC)(=O)OC1=CC=CC=C1 | C15H22O2
